US05519004
Boc-Ala-Pro-OBzl (I)
Boc-Ala-OH (56.76 g, 0.3 mole) dissolved in acetonitrile (500 mL) and cooled to 0° C. before adding NMM (32.97 mL). The solution was cooled to -15°±1° C. and isobutyl chloroformate (41.01 mL) was added slowly under stirring while maintaining the temperature at -15° C. After stirring the reaction mixture for 10 rain at this temperature, HOBt (40.56 g, 0.3 mole) was added. The reaction mixture was stirred for an additional 10 rain and a precooled solution of HCl·H-Pro-OBzL (72.5 g, 0.3 mole) and NMM (32.97 mL) in DMF (600 mL) were added slowly. After 20 min, the pH of the solution was adjusted to 8 by the addition of NMM and the reaction was continued overnight. The solvent was removed under reduced pressure and the residual DMF solution was poured into about 2000 mL of ice-cold 90% saturated KHCO3 solution and stirred for 30 mm. Since the peptide did not precipitate out, it was extracted into CHCl3, which was washed with water, 20% citric acid, and water, and dried over Na2SO4, and the solvent was washed with water, 20% citric acid, and water, before drying over Na2SO4, and removing solvent under reduced pressure. The resulting oil was recrystallized from ether/petroleum ether. The crystals were faltered, washed with petroleum ether, and dried to obtain 79.9 g (yield, 70.75%) of I. Rf1, 0.5; Rf2, 0.61.

reactant | Boc-Ala-OH | 0.3 mole, 56.76 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | NMM | 32.97 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 41.01 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HOBt | 0.3 mole, 40.56 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 32.97 mL | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | Boc-Ala-Pro-OBzl | N([C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C20H28N2O5
